US08022223B2
Step C: Preparation of tert-butyl 4-(2-(trimethylsilyloxy)allyl)piperidine-1-carboxylate:
To a cooled (−78° C.) solution of LDA (12.3 mL, 24.6 mmol) in THF (50 mL) was added dropwise over 40 minutes a solution of tert-butyl 4-(2-oxopropyl)piperidine-1-carboxylate (4.95 g, 20.5 mmol) in THF (20 mL). After an additional 25 minutes, chlorotrimethylsilane (5.21 mL, 41.0 mmol) was added dropwise over 20 minutes. After stirring for an hour, the reaction was poured into saturated NaHCO3 and extracted with ether (2×400 mL). The combined ether layers were washed with brine, dried, filtered and concentrated to afford the title compound (6.95 g, 108% yield) which was used as is in the next step.

reactant | LDA | 24.6 mmol, 12.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | tert-butyl 4-(2-oxopropyl)piperidine-1-carboxylate | 20.5 mmol, 4.95 g | O=C(CC1CCN(CC1)C(=O)OC(C)(C)C)C | C13H23NO3
reactant | chlorotrimethylsilane | 41.0 mmol, 5.21 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(2-(trimethylsilyloxy)allyl)piperidine-1-carboxylate | 6.95 g, 108% yield | C[Si](OC(CC1CCN(CC1)C(=O)OC(C)(C)C)=C)(C)C | C16H31NO3Si
